US05841000
43.5 g of indene (92 wt %; 0.345 mol), 0.7 g of Triton X-100 and 100 ml of water were put into a 500-ml 3-mouthed flask, and mixed by stirring. Mixing was continued at 60° C. as 27.5 g of bromine (0.172 mol, 0.5 mol/mol of indene) was added dropwise over approximately 3 hours. After this, stirring at 60° C. was continued. The reaction mixture was extracted with ethyl acetate directly after dropwise addition of bromine, and after mixing for a further 1 hour. Yields of trans-2-bromoindan-1-ol were calculated from the hydrogen bromide concentrations in the aqueous phase (by gravimetric titration using silver nitrate), and the quantity of indene in the extraction layer was found by GC by means of a calibration line and used to calculate percent conversion.

reactant | indene | 0.345 mol, 43.5 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | bromine | 0.172 mol, 27.5 g | BrBr | Br2
solvent | water | 100 ml | O | H2O
product | trans-2-bromoindan-1-ol | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
